US06455559B1
2-chloroethyl 5-{[2-(4-{[(2-chloroethoxy)carbonyl]amino}phenyl)propanoyl]amino}-3-cyclopropyl-1H-pyrazole-1-carboxylate
154 mg (0.57 mmol) of 2-(4-aminophenyl)-N-(5-cyclopropyl-1H-pyrazol-3-yl)propanamide were dissolved in 1.9 ml of dry pyridine at 4° C. under argon atmosphere and 0.12 ml (1.148 mmol) of 2-chloroethylchloroformate were added dropwise. After 2.5 hours the reaction mixture was poured into ice and the precipitate solid collected by filtration, affording 225 mg (82% yield) of the title compound.

reactant | 2-(4-aminophenyl)-N-(5-cyclopropyl-1H-pyrazol-3-yl)propanamide | 0.57 mmol, 154 mg | NC1=CC=C(C=C1)C(C(=O)NC1=NNC(=C1)C1CC1)C | C15H18N4O
reactant | 2-chloroethylchloroformate | 1.148 mmol, 0.12 ml | ClCCOC(=O)Cl | C3H4Cl2O2
solvent | pyridine | 1.9 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloroethyl 5-{[2-(4-{[(2-chloroethoxy)carbonyl]amino}phenyl)propanoyl]amino}-3-cyclopropyl-1H-pyrazole-1-carboxylate | 225 mg, 82% yield | ClCCOC(=O)NC1=CC=C(C=C1)C(C(=O)NC1=CC(=NN1C(=O)OCCCl)C1CC1)C | C21H24Cl2N4O5
